US06270533B1
a) Preparation of N-[2-(3-imidazol-1-ylpropoxy)-4-nitrophenyl]acetamide
54.5 g (0.2 mol) of N-[2-(3-chloropropoxy)-4-nitrophenyl]acetamide, the preparation of which was described in step a) of Example 6 above, and 40.8 g (0.6 mol) of 1H imidazole in 150 ml of dimethylformamide were heated on a boiling water bath for 4 hours.

reactant | N-[2-(3-chloropropoxy)-4-nitrophenyl]acetamide | 0.2 mol, 54.5 g | ClCCCOC1=C(C=CC(=C1)[N+](=O)[O-])NC(C)=O | C11H13ClN2O4
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-[2-(3-imidazol-1-ylpropoxy)-4-nitrophenyl]acetamide | N1(C=NC=C1)CCCOC1=C(C=CC(=C1)[N+](=O)[O-])NC(C)=O | C14H16N4O4
